US05643958
(1) Preparation of diethyl 4-hydroxy-4-phenyl-1,3-butanedicarboxylate
2.0 g of diethyl glutarate and 1.1 g of benzaldehyde were dissolved in 30 ml of tetrahydrofuran, and 8.5 ml of a 1.5M lithium diisopropylamide cyclohexane solution was dropwise added thereto at -78° C. under a nitrogen atmosphere, followed by stirring at the same temperature for 1.5 hours. A saturated ammonium chloride aqueous solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. Then, the organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by medium pressure liquid chromatography (Lobar column™, size C, Lichroprep™Si60, manufactured by Merck Co.; hexane/ethyl acetate=3/1) to obtain 1.56 g of the above-identified compound as colorless oily substance.

reactant | diethyl glutarate | 2.0 g | C(CCCC(=O)OCC)(=O)OCC | C9H16O4
reactant | benzaldehyde | 1.1 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | lithium diisopropylamide cyclohexane | 1.5M | C1CCCCC1.C(C)(C)[N-]C(C)C.[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | diethyl 4-hydroxy-4-phenyl-1,3-butanedicarboxylate | 1.56 g | OC(C(CCC(=O)OCC)C(=O)OCC)C1=CC=CC=C1 | C16H22O5
